US04868132
4-(Carbomethoxymethyl)phenylacetyl chloride
A 3.04 g portion of methyl 4-carboxymethylphenylacetate, prepared above, was dissolved in 50 mL of anhydrous tetrahydrofuran. After the addition of2.5 mL oxalyl chloride, the mixture was stirred for 4 hours. The solvents were evaporated under a stream of dry nitrogen as the flask was warmed to 45° C. Any remaining solvent or oxalyl chloride was then removed under high vacuum; the product was used without further purification.

reactant | methyl 4-carboxymethylphenylacetate | C(=O)(O)CC1=CC=C(C=C1)CC(=O)OC | C11H12O4
reactant | oxalyl chloride | 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(Carbomethoxymethyl)phenylacetyl chloride | C(=O)(OC)CC1=CC=C(C=C1)CC(=O)Cl | C11H11ClO3
